US04263037
(c) 5-Bromo-2,3-dihydro-3,3-dimethylbenzofuran-2-one (II)
2,3-Dihydro-3,3-dimethylbenzofuran-2-one (1.62 g, 0.01 mole), in carbon tetrachloride (25 ml) containing catalytic amounts of iron filings and iodine was treated with bromine (1.6 g, 0.01 mole) and the mixture boiled under reflux for 1 hour. The solvent was removed under vacuum and the residue taken up in petroleum ether (b.p. 60°-80° C.). The solution was decanted from a little insoluble residue and washed with aqueous sodium metabisulphite and water, dried over magnesium sulphate and run down. The title product was obtained as a white solid m.p. 49°-53° C. and was shown by NMR to be a slightly impure sample of the product obtained in Example 3(b).

reactant | 2,3-Dihydro-3,3-dimethylbenzofuran-2-one | 0.01 mole, 1.62 g | CC1(C(OC2=C1C=CC=C2)=O)C | C10H10O2
reactant | iodine | II | I2
reactant | bromine | 0.01 mole, 1.6 g | BrBr | Br2
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | iron | [Fe] | Fe
product | 5-Bromo-2,3-dihydro-3,3-dimethylbenzofuran-2-one | BrC=1C=CC2=C(C(C(O2)=O)(C)C)C1 | C10H9BrO2
